US04076840
Triethylamine (2.5 g, 25 mmol) is added dropwise at 0° to a solution of 1-ethoxycyclopropylammonium chloride (1.25 g, 9.15 mmol) and benzoyl chloride (1.4 g, 10 mmol) in dry tetrahydrofuran (20 ml). The precipitate is filtered off and the filtrate is evaporated in vacuo yielding a crystalline residue. Sublimation following by recrystallisation from cyclohexane gives N-(1-ethoxycyclopropyl)-benzamide, mp 108°-109° (0.95 g, 51%); NMR (60 MHz): δCDCl 3 = 0.90-1.38 (m, 4H), 1.16 (t, J=7 Hz, 3H), 3.77 (q, J=7 Hz, 2H), 7.0-8.0 (1 m and 1 br. s, total 6H).

reactant | Triethylamine | 25 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | 1-ethoxycyclopropylammonium chloride | 9.15 mmol, 1.25 g | [Cl-].C(C)OC1(CC1)[NH3+]
reactant | benzoyl chloride | 10 mmol, 1.4 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-(1-ethoxycyclopropyl)-benzamide | C(C)OC1(CC1)NC(C1=CC=CC=C1)=O | C12H15NO2
